US06664256B1
Preparation of 3,4-bis-(4-methoxyphenyl)-6-cyanopyridazine
A solution of 3,4-bis-(4-methoxyphenyl)pyridazine 1-oxide [Eur. J. Med. Chem.-Chimica Therapeutica, 14, 53-60 (1979)] (5.01 g, 16.25 mmol) and potassium cyanide (3.17 g, 48.75 mmol) in water (90 ml) was ice-cooled. After benzoyl chloride (7.77 g, 55.25 mmol) was added dropwise with vigorous stirring under a nitrogen gas atmosphere, the resulting mixture was stirred at room temperature for 20 hours. Water-chloroform was added to the reaction mixture, and subsequent to alkalinization, the thus-obtained mixture was extracted with chloroform. The organic layer was washed with water, and was then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the residue (oil) was separated and purified by chromatography on a silica gel column [hexane/ethyl acetate (5/1)]. Relevant fractions were crystallized from ethyl acetate-diethyl ether-hexane, whereby the title compound was obtained as slightly yellow prisms (3.30 g, 64.0%). Melting point: 113-115° C.

reactant | 3,4-bis-(4-methoxyphenyl)pyridazine 1-oxide | 16.25 mmol, 5.01 g | COC1=CC=C(C=C1)C=1N=[N+](C=CC1C1=CC=C(C=C1)OC)[O-] | C18H16N2O3
reactant | potassium cyanide | 48.75 mmol, 3.17 g | [C-]#N.[K+]
reactant | benzoyl chloride | 55.25 mmol, 7.77 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Water chloroform | O.C(Cl)(Cl)Cl
solvent | water | 90 ml | O | H2O
product | 3,4-bis-(4-methoxyphenyl)-6-cyanopyridazine | 3.30 g, 64.0% | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)C#N | C19H15N3O2
